US07858623B2
Step 2: 1-(2-aminoethyl)-N-(3-fluoro-4-((7-(methyloxy)-4-quinolinyl)oxy)phenyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide.
To a solution of 1-(2-(1,3-dioxoisoindolin-2-yl)ethyl)-N-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (0.20 g, 0.30 mmol) in 1:1 H2O/EtOH was added hydrazine (0.049 g, 1.5 mmol). The reaction was heated to 50° C. for 8 hours and then cooled to RT. The reaction mixture was then diluted with 20 mL of satd. NaHCO3 aq. solution and 60 mL of EtOAc. The organic phase was separated and washed with 30 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was washed with 20% hexane in EtOAc to give the title compound as a light yellow solid (0.13 g, 81% yield).

reactant | 1-(2-(1,3-dioxoisoindolin-2-yl)ethyl)-N-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.30 mmol, 0.20 g | O=C1N(C(C2=CC=CC=C12)=O)CCN1N(C(C(=C1C)C(=O)NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)C1=CC=CC=C1 | C37H28FN5O6
reactant | H2O EtOH | O.CCO
reactant | hydrazine | 1.5 mmol, 0.049 g | NN | H4N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 1-(2-aminoethyl)-N-(3-fluoro-4-((7-(methyloxy)-4-quinolinyl)oxy)phenyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.13 g, 81% yield | NCCN1N(C(C(=C1C)C(=O)NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)C1=CC=CC=C1 | C29H26FN5O4
